US09238640B2
Preparation of 2-(4-((3R,5S)-4-Acetyl-3,5-dimethylpiperazin-1-yl)phenyl)-5-methoxy-7-(2-methoxyethoxy)quinazolin-4(3H)-one
To a solution of 2-methoxy-ethanol (1.00 g, 13.4 mmol) in dimethyl sulfoxide (4 mL), sodium hydride (60% suspension in mineral oil, 0.50 g, 12.5 mmol) was added in portions, and the reaction mixture was stirred at room temperature for 20 minutes. To this reaction mixture was added 2-[4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-phenyl]-7-fluoro-5-methoxy-3H-quinazolin-4-one (0.57 g, 1.34 mmol) and the reaction mixture was stirred at 85° C. for 24 hours. Water was added. The mixture was acidified to pH approximately 4-5 with acetic acid, and the precipitated solid was filtered to give crude product, which was purified by column chromatography (silica gel 230-400 mesh; eluting with 2% methanol in dichloromethane). The resulting mixture was purified by preparative HPLC to obtain the title compound as a white solid. Yield: 0.140 g (23.2%). MP 225-227° C. 1H NMR (400 MHz, CDCl3): δ 8.10 (d, J=8.8 Hz, 2H), 7.08 (d, J=8.8 Hz, 1H), 6.70 (d, J=2.4 Hz, 1H), 6.49 (d, J=2.4 Hz, 1H), 4.50 (bs, 1H), 4.23 (m, 2H), 4.14 (bs, 1H), 3.84 (s, 3H), 3.81 (m, 2H), 3.69 (m, 2H), 3.32 (s, 3H), 2.99 (bs, 2H), 2.07 (s, 3H), 1.25 (bs, 6H). MS (ES) m/z: 481.11 (M++1).

reactant | 2-methoxy-ethanol | 13.4 mmol, 1.00 g | COCCO | C3H8O2
reactant | sodium hydride | 12.5 mmol, 0.50 g | [H-].[Na+]
reactant | 2-[4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-phenyl]-7-fluoro-5-methoxy-3H-quinazolin-4-one | 1.34 mmol, 0.57 g | C(C)(=O)N1C(CN(CC1C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C23H25FN4O3
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-((3R,5S)-4-Acetyl-3,5-dimethylpiperazin-1-yl)phenyl)-5-methoxy-7-(2-methoxyethoxy)quinazolin-4(3H)-one | C(C)(=O)N1[C@@H](CN(C[C@@H]1C)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OCCOC)C | C26H32N4O5
